US08168658B2
To a mixture of Na3PO4 (9.84 g, 60.0 mmol), methyl cyanoacetate (2.38 g, 24.0 mmol), and tert-butyl 4-bromobenzoate (5.14 g, 20.0 mmol) were added Pd(dba)2 (575 mg, 1.00 mmol), toluene (60 mL), and P(t-Bu)3 (10% wt in hexanes, 11.56 mL, 3.89 mmol). After degassing for 20 minutes, the reaction was stirred at 80° C. for 16 h. The resulting mixture was diluted with EtOAc, washed with H2O and brine, dried (MgSO4), and concentrated. Flash chromatography on silica gel (0-15% EtOAc/hexanes) gave tert-butyl 4-(1-cyano-2-methoxy-2-oxoethyl)benzoate as a white solid. 1H NMR (CDCl3) δ8.02 (d, J=7.9 Hz, 2H), 7.51 (d, J=8.2 Hz, 2H), 4.79 (s, 1H), 3.79 (s, 3H), 1.58 (s, 9H). MS (ESI) calcd [M+H]+ 276.1, found 276.1.

reactant | methyl cyanoacetate | 24.0 mmol, 2.38 g | C(#N)CC(=O)OC | C4H5NO2
reactant | tert-butyl 4-bromobenzoate | 20.0 mmol, 5.14 g | BrC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H13BrO2
reactant | P(t-Bu)3 | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | Pd(dba)2 | 1.00 mmol, 575 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-(1-cyano-2-methoxy-2-oxoethyl)benzoate | C(#N)C(C(=O)OC)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C15H17NO4
